US07390923B2
a) (2-Fluoro-4-hydroxyphenyl)carbamic acid ethyl ester
Ethyl chloroformate (0.37 ml, 3.9 mmol) was added to a stirring solution of 4-amino-3-fluorophenol (0.5 g, 3.9 mmol) in 2 ml of 10% NaOH. The reaction mixture was heated at 80° C. for 30 min. After cooling, the solution was acidified with hydrochloric acid to give the product. 1H NMR (400 MHz, DMSO-d6): 1.20 (3H, t, J=7.0 Hz), 4.06 (2H, q, J=7.0 Hz), 6.53-6.59 (2H, m), 7.16-7.21 (1H, m), 8.79 (1H, s), 9.72 (1H, s).

reactant | Ethyl chloroformate | 3.9 mmol, 0.37 ml | ClC(=O)OCC | C3H5ClO2
reactant | 4-amino-3-fluorophenol | 3.9 mmol, 0.5 g | NC1=C(C=C(C=C1)O)F | C6H6FNO
reactant | hydrochloric acid | Cl | ClH
solvent | NaOH | 2 ml | [OH-].[Na+]
product | (2-Fluoro-4-hydroxyphenyl)carbamic acid ethyl ester | C(C)OC(NC1=C(C=C(C=C1)O)F)=O | C9H10FNO3
